US08865909B2
Synthesis of (Z)-5-(5-(decyloxy)pentylidene)thiazolidine-2,4-dione (TZD1c)
TZD1c was prepared according to General Procedure A presented hereinabove, using 2,4-thiazolidinedione and 5-(decyloxy)pentanal as reactants.

reactant | 2,4-thiazolidinedione | S1C(NC(C1)=O)=O | C3H3NO2S
reactant | 5-(decyloxy)pentanal | C(CCCCCCCCC)OCCCCC=O | C15H30O2
product | (Z)-5-(5-(decyloxy)pentylidene)thiazolidine-2,4-dione | C(CCCCCCCCC)OCCCC\C=C/1\C(NC(S1)=O)=O | C18H31NO3S
